US07786165B2
{4-[(3,5-di-tert-butyl-1H-pyrazol-1-yl)methyl]phenyl}methanol
To a solution of methyl 4-[(3,5-di-tert-butyl-1H-pyrazol-1-yl)methyl]benzoate (1.72 g, 5.24 mmol) in tetrahydrofuran (35 mL) was added lithium aluminum hydride (0.25 g, 5.3 mmol) at 0° C., and the mixture was stirred at room temperature for 30 min. Ethanol (10 mL) and saturated aqueous ammonium chloride solution (1.0 mL) were added to the reaction mixture, and the precipitated solid was filtered off. The filtrate was concentrated and the residue was purified by silica gel column chromatography (50% ethyl acetate/hexane) to give the title compound (1.28 g, yield 81%) as colorless crystals.

reactant | methyl 4-[(3,5-di-tert-butyl-1H-pyrazol-1-yl)methyl]benzoate | 5.24 mmol, 1.72 g | C(C)(C)(C)C1=NN(C(=C1)C(C)(C)C)CC1=CC=C(C(=O)OC)C=C1 | C20H28N2O2
reactant | lithium aluminum hydride | 5.3 mmol, 0.25 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Ethanol | 10 mL | C(C)O | C2H6O
reactant | ammonium chloride | 1.0 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | {4-[(3,5-di-tert-butyl-1H-pyrazol-1-yl)methyl]phenyl}methanol | 1.28 g, yield 81% | C(C)(C)(C)C1=NN(C(=C1)C(C)(C)C)CC1=CC=C(C=C1)CO | C19H28N2O
